US08957069B2
1-(4-Methoxy-3-methylphenyl)-4-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (552 mg, 2.0 mmol) synthesized in Reference example 88 and 4-bromo-1-methoxy-2-methylbenzene (804 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 323 mg (yield 41%). Melting point was 94 to 96° C. (ethanol-water).

reactant | 1-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 2.0 mmol, 552 mg | COC1=C(C(=C(C=2CC(OC21)C)C)N2CCNCC2)C | C16H24N2O2
reactant | 4-bromo-1-methoxy-2-methylbenzene | 4.0 mmol, 804 mg | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
product | 1-(4-Methoxy-3-methylphenyl)-4-(7-methoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 323 mg, yield 41% | COC1=C(C=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)OC)C)C | C24H32N2O3
